US07109310B2
Preparation of N-(1-phenethyl-4-piperidinyl)-phenylamine (despropionylfentanyl) (Compound 7)
The title compound was prepared by the method outlined in Example 1 using 1-phenethyl-4-piperidone (5.3 g, 0.026 mol), aniline (5.01 ml, 0.55 mol), acetic acid (3 ml) 1,2-dichloroethane (100 ml) and sodium triacetoxyborohydride (5.82 g, 0.027 mol). The title compound was obtained as a white solid (74% yield).

reactant | 1-phenethyl-4-piperidone | 0.026 mol, 5.3 g | C(CC1=CC=CC=C1)N1CCC(CC1)=O | C13H17NO
reactant | aniline | 0.55 mol, 5.01 ml | NC1=CC=CC=C1 | C6H7N
reactant | sodium triacetoxyborohydride | 0.027 mol, 5.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | N-(1-phenethyl-4-piperidinyl)-phenylamine | C(CC1=CC=CC=C1)N1CCC(CC1)NC1=CC=CC=C1 | C19H24N2
